US08957069B2
1-(4-Methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
In addition, synthesis was also performed according to the below-described method using 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (344.1 g, 1.28 mol) synthesized in Reference Example 4 and 1-(4-methoxyphenyl)piperazine (164 g, 853 mmol). That is, 1-(4-methoxyphenyl)piperazine (51.5 g, 268 mmol), palladium acetate (3.01 g, 13.4 mmol), BINAP (12.5 g, 20.1 mmol) and sodium tert-butoxide (38.6 g, 402 mmol) were added to a solution of toluene (775 mL) containing 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (108 g, 402 mmol), and the mixture was heated to reflux under argon atmosphere for 7 hours. After cooled to room temperature, water (775 mL) was added to the reaction solution for distribution. The organic layer was washed with saturated saline (515 mL) and dried using anhydrous magnesium sulfate, and after that, the solvent was removed under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (hexane-ethyl acetate 98:2) and then silica gel column chromatography (hexane-ethyl acetate 100:0-94:6) to give a crudely purified product of the title compound as a yellow solid (68.0 g). Similarly, a crudely purified product of the title compound (136.6 g) was obtained from 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (213 g, 791 mmol) and 1-(4-methoxyphenyl)piperazine (101.5 g, 528 mmol). The obtained crudely purified products were put together and suspended in ethanol (2.3 L). This suspension was stirred at 65° C. for 30 minutes. After cooled to room temperature, it was further stirred for 1 hour, and crystals were collected by filtration to give a crude crystal of the title compound (181 g). Similarly, a crude crystal of the title compound was obtained from 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (23.1 g, 85.8 mmol) and 1-(4-methoxyphenyl)piperazine (11.0 g, 57.2 mmol). The obtained crude crystals were put together and recrystallized from acetone (2.82 L)/water (940 mL) to give 176 g of the title compound as a colorless crystal (yield: 54%). Melting point was 152 to 155° C.

reactant | 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 1.28 mol, 344.1 g | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H17BrO
reactant | 1-(4-methoxyphenyl)piperazine | 853 mmol, 164 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | 1-(4-methoxyphenyl)piperazine | 268 mmol, 51.5 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | BINAP | 20.1 mmol, 12.5 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 402 mmol, 38.6 g | CC(C)([O-])C.[Na+]
reactant | 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 402 mmol, 108 g | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H17BrO
catalyst | palladium acetate | 13.4 mmol, 3.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 775 mL | O | H2O
solvent | toluene | 775 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 68.0 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C24H32N2O2
